US05753679
0.14 g (0.00062 mol) of 1-(2-chloro-benzyl)-piperidin-4-ol and 0.17 ml (0.00123 mol) of triethylamine were dissolved in 6.2 ml of toluene, treated with 0.09 ml (0.000776 mol) of benzoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:1→1:2). 0.16 g (78%) of 1-(2-chloro-benzyl)-piperidin-4-yl benzoate was obtained as a colorless oil.

reactant | 1-(2-chloro-benzyl)-piperidin-4-ol | 0.00062 mol, 0.14 g | ClC1=C(CN2CCC(CC2)O)C=CC=C1 | C12H16ClNO
reactant | triethylamine | 0.00123 mol, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.000776 mol, 0.09 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 6.2 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-benzyl)-piperidin-4-yl benzoate | 0.16 g, 78% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=C(C=CC=C1)Cl | C19H20ClNO2
